US04886835
The procedure is as in Example 2 for the preparation of N-(3-ethoxy-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate, starting with t-butyl 4-dimethylamino-2-oxo-3-butenoate (3.3 g) and triethyloxonium tetrafluoroborate (3.62 g) in dichloromethane (20 cc). The solution of N-(3-ethoxy-3-t-butyloxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate in methylene chloride thereby obtained is stored under an argon atmosphere and used immediately in the subsequent syntheses.

reactant | N-(3-ethoxy-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | F[B-](F)(F)F.C(C)OC(=CC=[N+](C)C)C(=O)OCC
reactant | t-butyl 4-dimethylamino-2-oxo-3-butenoate | 3.3 g | CN(C=CC(C(=O)OC(C)(C)C)=O)C | C10H17NO3
reactant | triethyloxonium tetrafluoroborate | 3.62 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-ethoxy-3-t-butyloxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | F[B-](F)(F)F.C(C)OC(=CC=[N+](C)C)C(=O)OC(C)(C)C | InChI=1S/C12H22NO3.BF4/c1-7-15-10(8-9-13(5)6)11(14)16-12(2,3)4;2-1(3,4)5/h8-9H,7H2,1-6H3;/q+1;-1
